US08608899B2
Reaction Product of N,N-dimethylcarbamoyl chloride/tyrosine methyl ester (“C-3”)
9.07 g (46.5 mmol) of tyrosine methyl ester and 50 mL dioxane were weighed out into a 250 mL two-necked flask. Then first 4.55 g (45.0 mmol) triethylamine and then 5.0 g (46.5 mmol) of N,N-dimethylcarbamoyl chloride were added. After the exothermic evolution of heat subsided, the mixture was stirred for 2 h at 70° C., where a yellowish, increasingly difficultly stirrable suspension slowly formed.

reactant | tyrosine methyl ester | 46.5 mmol, 9.07 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
reactant | triethylamine | 45.0 mmol, 4.55 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoyl chloride | 46.5 mmol, 5.0 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N,N-dimethylcarbamoyl chloride tyrosine methyl ester | CN(C(=O)Cl)C.COC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C10H13NO3.C3H6ClNO/c1-14-10(13)9(11)6-7-2-4-8(12)5-3-7;1-5(2)3(4)6/h2-5,9,12H,6,11H2,1H3;1-2H3/t9-;/m0./s1
